US05723165
The same process as in Example 15 was repeated, except that N-benzyloxycarbonyl-β-benzyl-L-aspartyl-D-isoleucine was used in place of N-benzyloxycarbonyl-β-benzyl-L-aspartyl-D-valine and that (R)-α-methoxymethylbenzylamine hydrochloride was used in place of (R)-α-ethoxymethylbenzylamine hydrochloride, and α-L-aspartyl-D-isoleucine (R)-α-methoxymethylbenzylamide was obtained as a solid product. The total yield was 22.1%.

reactant | N-benzyloxycarbonyl-β-benzyl-L-aspartyl-D-isoleucine | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C(O)=O)CC1=CC=CC=C1)C(=O)N[C@H]([C@H](C)CC)C(=O)O | C25H30N2O7
reactant | (R)-α-methoxymethylbenzylamine hydrochloride | Cl.COC[C@@H](C1=CC=CC=C1)N
product | α-L-aspartyl-D-isoleucine (R)-α-methoxymethylbenzylamide | yield was 22.1% | COC[C@@H](C1=CC=CC=C1)NC([C@H](NC([C@@H](N)CC(O)=O)=O)[C@H](C)CC)=O | C19H29N3O5
